US08440662B2
Step 2: (4-Amino-phenyl)-(4-methyl-piperazine-1-yl)-methanone
To a solution of (4-Methyl-piperazin-1-yl)-(4-nitro-phenyl)-methanone (14 g, 0.05623 mol) in MeOH (100 mL) was added Pd/C 10% (1.4 g) in portions and the Parr reaction vessel was purged with nitrogen for 10 min. reaction vessel was fixed in Parr shaker at 60 psi pressure for 3 h. The reaction mixture was filtered through the Celite® pad and the filtrate was concentrated under reduced pressure to afford the title compound [11 g, 89%]; LC-MS (ESI): Calculated mass 219.1; Observed mass: 220.1 [M+H]+ (RT: 0.16 min).

reactant | (4-Methyl-piperazin-1-yl)-(4-nitro-phenyl)-methanone | 0.05623 mol, 14 g | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | (4-Amino-phenyl)-(4-methyl-piperazine-1-yl)-methanone | 11 g, 89% | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C12H17N3O
